US06822097B1
2-Oxo-3-(2-pyridin-4-yl-thiazol-4-yl)-1,2-dihydro-quinoline-7-carboxylic acid (2-dimethylamino-ethyl)-ethyl-amide
This compound was prepared according to the method described in Example 8734 employing N′-ethyl-N,N-dimethylethane-1,2-diamine (Aldrich) and 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carboxylic acid. MS m/z: 448.2 (M+1). Anal. Calc'd for C24H25N5O2S.1.7H2O: C, 60.28; H, 5.99; N, 14.65. Found: C, 60.03; H, 5.61; N, 14.39.

reactant | N′-ethyl-N,N-dimethylethane-1,2-diamine | C(C)NCCN(C)C | C6H16N2
reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carboxylic acid | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C(=O)O)=O | C18H11N3O3S
product | 2-Oxo-3-(2-pyridin-4-yl-thiazol-4-yl)-1,2-dihydro-quinoline-7-carboxylic acid (2-dimethylamino-ethyl)-ethyl-amide | CN(CCN(C(=O)C1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1)CC)C | C24H25N5O2S
